datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](C2=CC=C(Cl)C=C2)=[NH+:12][C:63](C)=[O:64])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N:42]=[C:41]13)[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](OC)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>C[C:84]1=[CH:83][CH:82]=[C:81]([CH:10]([CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1 10=20;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:12][CH:11]=[C:10](C)C.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[O+:12]=[CH:11][C:10](C)(C)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]23[O:62]CC[N+:82]2(C)CC[O:72]3)O1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=CC=C(C)O2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[N+:82]12CC[O:62][B:11]1[O:72]CC2 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:10]([CH2:20][C:21]1=[C:22]([O-:23])[O:33]CCC1)([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10=20;20,21=21,22;22,23=23"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33].[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>Cl[C:20]1([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>C[N:21](C)[CH:20]([CH:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84](C(F)(F)F)[CH:93]=[CH:92]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10].CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])[C:31](=[O:32])[O:33]CC 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COCC[NH:10]CCOC>>COCC[NH+:10](CCOC)[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.NC1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61]3=[C:62](C(N)=NC=N3)[N:72]=[CH:71]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)C=C1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1.CC1=CC=[C:10]([CH:20](C#N)[CH:21]=[C:22]=[N-:23])S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][C:10]([C:11]#[N:12])([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
